US07235557B2
N,N-diisopropylbenzamide-boronic acid (2).
Disopropyl benzamide (10.0 g, 48.7 mmol) was dissolved in 200 mL of dry THF. This reaction was placed under inert atmosphere and cooled to −78° C. n-Butyl lithium (20.5 mL, 2.5 M) was added dropwise over a 15 minute period. This reaction mixture was stirred at this temperature for 4 h with a noticeable precipitation of the lithium salt. Trimethoxyborane (5.8 mL, 51.2 mmol) was added dropwise over a 10 minute period and the reaction was warmed to room temperature and stirred overnight. The reaction mixture was poured onto 300 g of ice and allowed to warm to room temperature. This mixture was partitioned in a separatory funnel and the aqueous layer was extracted once with 100 mL of DCM. The organic layer was acidified with conc. HCl and extracted with DCM (3×100 mL). The combined organic layers were dried arid concentrated in vacuo. The residual foam was dried on high vac for several hours. The resulting material, 5.8 g (48%) was the desired product 2 as characterized spectroscopically (cis:tran amide): 1H NMR (CDCl3): δ 8.04 (d, 0.7H), 7.94 (d, 0.3H), 7.35 (m, 3H), 4.11 (m, 0.7H), 3.74 (m, 0.3H), 3.54 (m, 0.3H), 3.37 (m, 0.7H), 1.57 (d, 1.8H), 1.26 (m, 6H), 1.08 (d, 4.2H).

reactant | benzamide | 48.7 mmol, 10.0 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | n-Butyl lithium | 2.5 M, 20.5 mL | C(CCC)[Li]
reactant | lithium | [Li] | Li
reactant | Trimethoxyborane | 51.2 mmol, 5.8 mL | COB(OC)OC | C3H9BO3
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | N,N-diisopropylbenzamide boronic acid | C(C)(C)N(C(C1=CC=CC=C1)=O)C(C)C.B(O)O | InChI=1S/C13H19NO.BH3O2/c1-10(2)14(11(3)4)13(15)12-8-6-5-7-9-12;2-1-3/h5-11H,1-4H3;1-3H
